US07786108B2
Step 2. Preparation of (+/−)-Isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-cyano-amino]-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add a solution of cyanogen bromide (68 mg, 0.63 mmol) in ether (2.6 mL) to a solution of isopropyl 5-(3,5-bistrifluoromethyl-benzylamino)-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (512 mg, 1.0 mmol) in ether (2.6 mL). Stir the mixture overnight at room temperature. Filter off the resulting solid and wash with ether. Wash the filtrate with water, dry over anhydrous sodium sulfate, filter and remove the solvent under reduced pressure. Purify the residue by flash chromatography, eluting with hexanes/ethyl acetate, to afford the title compound (204 mg, 38%): MS (ES+): 534 (M+H).

reactant | cyanogen bromide | 0.63 mmol, 68 mg | N#CBr | CBrN
reactant | isopropyl 5-(3,5-bistrifluoromethyl-benzylamino)-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 1.0 mmol, 512 mg | FC(C=1C=C(CNC2C3=C(N(CCC2)C(=O)OC(C)C)C=C(C=C3)Cl)C=C(C1)C(F)(F)F)(F)F | C23H23ClF6N2O2
solvent | ether | 2.6 mL | CCOCC | C4H10O
solvent | ether | 2.6 mL | CCOCC | C4H10O
product | (+/−)-Isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-cyano-amino]-8-chloro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 204 mg, 38% | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C=C(C=C3)Cl)C#N)C=C(C1)C(F)(F)F)(F)F | C24H22ClF6N3O2
